US08293912B2
(1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methoxycarbonylethylisoquinoline oxalate (7.0 g, 0.0135 moles) was dissolved in water (50 ml) and aqueous sodium bicarbonate solution was added to produce a pH in the range of 9-10. Dichloromethane (100 ml) was added and the mixture was stirred for 15 minutes at that temperature. The upper organic layer was separated and the aqueous layer was extracted three times with dichloromethane (3×100 ml). The combined organic layer was dried over magnesium sulfate and washed with 10% sodium chloride solution. The organic layer was dried over magnesium sulfate and evaporated under reduced pressure to afford a residual oil. Iodomethane (30 ml, 0.482 moles) was added to the oily residue and the mixture was stirred to obtain a solution and kept at ambient temperature overnight. The reaction mixture was added to diethyl ether (100 ml) to afford a suspension. The suspension was stirred at ambient temperature for 30 minutes to afford a solid, which was collected by filtration, washed with diethyl ether (2×15 ml) and dried to afford a mixture of 70% of the cis and 30% of the trans isomers of (1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methyl-2-methoxycarbonylethyl-isoquinolinium iodide (5.9 g; 77% yield).

reactant | (1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methoxycarbonylethylisoquinoline oxalate | 0.0135 moles, 7.0 g | C(C(=O)O)(=O)O.COC=1C=C(C=CC1OC)C[C@]1(NCCC2=CC(=C(C=C12)OC)OC)CCC(=O)OC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | Iodomethane | 0.482 moles, 30 ml | IC | CH3I
solvent | water | 50 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | (1R)-1-[(3,4-dimethoxyphenyl)methyl]-1,2,3,4-tetrahydro-6,7-dimethoxy-2-methyl-2-methoxycarbonylethyl-isoquinolinium iodide | 5.9 g, 77% yield | [I-].COC=1C=C(C=CC1OC)C[C@]1([NH+](CCC2=CC(=C(C=C12)OC)OC)C)CCC(=O)OC | InChI=1S/C25H33NO6.HI/c1-26-12-10-18-14-22(30-4)23(31-5)15-19(18)25(26,11-9-24(27)32-6)16-17-7-8-20(28-2)21(13-17)29-3;/h7-8,13-15H,9-12,16H2,1-6H3;1H/t25-;/m1./s1
